US05536718
Methyl 6[[bis (2-biphenylcarbonyl)]amino]pyridine-3-carboxylate
To a chilled (0° C.) solution of 2.64 g of methyl 6-aminopyridine-3-carboxylate and 5.5 ml of diisopropylethylamine in 30 ml of dichloromethane under argon is added 6.8 g of 2-biphenylcarbonyl chloride in 10 ml of dichloromethane. The mixture is stirred at room temperature 2 days and then diluted with 120 ml of dichloromethane and 50 ml of water. The organic layer is separated, washed with 50 ml each of 1M NaHCO3 and brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the filtrate concentrated under vacuum to give a solid. Crystallization from ethyl acetate gives 6.2 g of white crystals, m.p. 180°-188° C.

reactant | methyl 6-aminopyridine-3-carboxylate | 2.64 g | NC1=CC=C(C=N1)C(=O)OC | C7H8N2O2
reactant | diisopropylethylamine | 5.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-biphenylcarbonyl chloride | 6.8 g | C=1(C(=CC=CC1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | Methyl 6[[bis (2-biphenylcarbonyl)]amino]pyridine-3-carboxylate | 6.2 g | C=1(C(=CC=CC1)C(=O)N(C1=CC=C(C=N1)C(=O)OC)C(=O)C=1C(=CC=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C33H24N2O4
